US06030926
Synthesis of 4-benzoyl-3-(3-chlorophenyl)-1-methoxymethylpyrazole (Compound No. 5)
To 55% sodium hydride (1.9 g) was added N,N-dimethylformamide (3 ml) and stirred while cooled with ice. To this was then added dropwise a solution of 4-benzoyl-3-(3-chlorophenyl)pyrazole (1.24 g) in N,N-dimethylformamide. The reaction mixture was stirred for 20 minutes at room temperature after the vigorous foaming ceased. The reaction mixture was added with chloromethyl methyl ether (0.59 g) and stirred for 5 hours at room temperature, which was then poured into ice-water, extracted with ethyl acetate, washed with water and dried on anhydrous sodium sulfate, and the solvent was then distilled off under reduced pressure. The thus obtained residue was purified by column chromatography (silica gel; ethyl acetate/n-hexane=3/1) and recrystallized from acetonitrile to give the compound of interest (620 mg). M.P.: 105.5-107.9° C.

reactant | sodium hydride | 1.9 g | [H-].[Na+]
reactant | 4-benzoyl-3-(3-chlorophenyl)pyrazole | 1.24 g | C(C1=CC=CC=C1)(=O)C=1C(=NNC1)C1=CC(=CC=C1)Cl | C16H11ClN2O
reactant | chloromethyl methyl ether | 0.59 g | COCCl | C2H5ClO
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 4-benzoyl-3-(3-chlorophenyl)-1-methoxymethylpyrazole | C(C1=CC=CC=C1)(=O)C=1C(=NN(C1)COC)C1=CC(=CC=C1)Cl | C18H15ClN2O2
